US06867310B1
2-(4-Trifluoromethylphenyl)-2-methyl-5-(N-methyl-anilinomethylene)-cyclopentanone
An oven dried Schlenk tube equipped with a rubber septum was cooled under an argon purge. The septum was removed and the tube was charged with tris(dibenzylideneacetone)dipalladium (0) (23 mg, 0.025 mmol, 10 mol % Pd), (S)-BINAP (46 mg, 0.075 mmol, 15 mol %) and 2-methyl-5-(N-methyl-anilinomethylene)cyclopentanone (108 mg, 0.5 mmol). Toluene (2 mL) was added and the mixture was stirred forI min at room temperature. 4-bromobenzotrifluoride (225 mg, 1.0 mmol) and sodium t-butoxide (96 mg, 1.0 mmol) were added to the tube. The tube was capped with the septum, purged with argon, and additional toluene (4 mL) was added through the septum. The mixture was heated to 100° C. with stirring until the starting ketone had been completely consumed as judged by GC analysis. The mixture was cooled to room temperature, quenched with saturated aqueous ammonium chloride (10 mL) and diluted with ether (20 mL). The mixture was poured into a separatory funnel and the layers were separated. The aqueous layer was extracted with ether (20 mL), and the combined organic layers were washed with brine (20 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel to afford 167 mg (93%) of the title compound. The ee was determined to be 53% by chiral HPLC analysis.

reactant | (S)-BINAP | 0.075 mmol, 46 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | 2-methyl-5-(N-methyl-anilinomethylene)cyclopentanone | 0.5 mmol, 108 mg | CC1C(C(CC1)=CN(C1=CC=CC=C1)C)=O | C14H17NO
reactant | 4-bromobenzotrifluoride | 1.0 mmol, 225 mg | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | sodium t-butoxide | 1.0 mmol, 96 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.025 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Trifluoromethylphenyl)-2-methyl-5-(N-methyl-anilinomethylene)-cyclopentanone | 167 mg, 93% | FC(C1=CC=C(C=C1)C1(C(C(CC1)=CN(C1=CC=CC=C1)C)=O)C)(F)F | C21H20F3NO
